US05736557
88.7 g of diethyl 2,3-diazabicyclo[2.2.1]heptane-2,3-dicarboxylate (prepared according to P. G. Gassman and K. T. Mansfield, Organic Synthesis 49, 1-6) are reduced with 16.8 g of sodium in 150 ml of tetrahydrofuran and 1.5 l of liquid ammonia. After the addition of 39.2 g of ammonium chloride the ammonia is evaporated and the residue is taken up with 250 ml of dichloromethane and 250 ml of 2N hydrochloric acid. The aqueous phase is separated, back-washed with two 50 ml portions of methylene chloride and the organic phases are combined and evaporated to dryness. The residue is recrystallized from 600 ml of toluene and 300 ml of hexane. 78 g of cis-cyclopentane-1,3-diamine bis-ethylcarbamate (m.p.:110°-111° C.) are obtained.

reactant | diethyl 2,3-diazabicyclo[2.2.1]heptane-2,3-dicarboxylate | 88.7 g | C12N(N(C(CC1)C2)C(=O)OCC)C(=O)OCC | C11H18N2O4
reactant | sodium | 16.8 g | [Na] | Na
reactant | ammonia | N | H3N
reactant | ammonium chloride | 39.2 g | [Cl-].[NH4+]
reactant | tetrahydrofuran | 150 ml | O1CCCC1 | C4H8O
product | cis-cyclopentane-1,3-diamine bis-ethylcarbamate | 78 g | C(C)N(C(O)=O)CC.[C@H]1(C[C@@H](CC1)N)N | InChI=1S/C5H12N2.C5H11NO2/c6-4-1-2-5(7)3-4;1-3-6(4-2)5(7)8/h4-5H,1-3,6-7H2;3-4H2,1-2H3,(H,7,8)/t4-,5+;
